US04654343
N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide
A mixture of 7.38 g of 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine and 50 ml of propionic anhydride was heated on a steam bath for one hour and then stirred at room temperature for 3 hours. The mixture was then diluted with 50 ml of ether, the solid was collected, washed with ether and recrystallized by dissolving in 150 ml of dichloromethane containing 10 ml of ethanol while heating and adding hexane until crystals appeared. Chilling produced crystals which were collected, giving 8.42 g of the desired product as tan crystals, mp 265°-268° C.

reactant | 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | 7.38 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | propionic anhydride | 50 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide | 8.42 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(CC)=O | C15H15N5O
